reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C+:1]([N:2]([C:3]([N:4]([H:9])[H:11])=[C:5]([O-:6])[H:12])[H:10])([H:7])[H:8],56.935560169807204
[C-:5]#[O+:6].[N:1]([C+:2]([O:3][H:10])[N-:4][H:9])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:10])[H:9])([H:7])[H:8],20.452909639079902
[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]=[C:3]=[O:4])([H:8])([H:9])[H:10].[N-:5]([C+:6]([N:7]([H:11])[H:14])[H:13])[H:12],52.718052012936894
[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:19])([C:5]([C:6]([H:16])([H:17])[H:18])=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][H:15],68.718175680061
[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4]([N:5]([C:6]([O:7][H:12])([H:11])[H:16])[H:15])([H:13])[H:14])([H:8])([H:9])[H:10],57.6785812204399
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]=[O:3])([H:8])[H:9].[C:4](\[O:5][H:12])(=[C:6](\[O:7][H:10])[H:13])[H:11],56.424601815150794
[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1](/[C:2](=[N:3]\[C:4]([H:12])([H:13])[H:14])[H:11])([H:7])([H:8])[H:9].[H:10][H:15],85.94272055966198
[C:1]([O:2][C:3]([C:4](=[O:5])[C:6]([O:7][H:17])([H:15])[H:16])([H:12])[H:13])([H:8])([H:9])[H:10].[H:11][H:14]>>[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],70.2099172603216
[O:1]1[C@:2]2([H:8])[C@@:3]3([H:9])[C:4]([H:10])([H:11])[C@:6]([H:12])([N:5]13)[O:7]2>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],43.990741945507395
[C:1]([O:2][C:3](=[O:4])/[C:5](=[C:6](/[O:7][H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],54.13608808048954
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[H:11])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:8])[H:10].[H:9][H:12],104.680510956149
[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O+:3]=[C:4]=[C:6]([O-:7])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([H:13])([H:14])([H:15])[H:16],76.1996978215865
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][H:11])=[C:4]([H:12])[H:13])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:14],61.7052326726205
[C:1]([O:2][C:3](=[O:4])[C:5](=[O:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[O+:6]=[C-:5][H:10])([H:7])([H:8])[H:9],75.4226675840449
[C:1]([O:2][C:3]([C:4]([O:5][C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][H:13])([H:7])([H:8])[H:9].[C:3](=[C:4]([O:5][C:6]([H:14])([H:15])[H:16])[H:12])([H:10])[H:11],69.5234808120553
[O:1](/[C:2](=[N:3]/[H:8])[H:7])[N:6]=[C:5]=[C:4]([H:9])[H:10]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7],16.5772353433359
[C:3]([C:4](=[O:5])[H:11])([H:7])([H:9])[H:10].[O:1]([C:2][H:8])[H:6]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:7])[H:8])[H:6],24.814987267816797
[C:1]([C@@:2]1([H:9])[C:4]([N:3]([H:10])[H:11])=[N:5]1)([H:6])([H:7])[H:8]>>[C:1]([C@@:2]([N:3]([H:10])[H:11])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8],70.06807936772229
[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:5](=[O:6])([H:11])[H:13].[O:1]([C:2](/[C:3](=[N:4]/[H:12])[H:10])([H:8])[H:9])[H:7],87.65839518841041
[N:1]([C:2](=[C:3]=[C:4]([H:9])[H:10])[C:5]#[N:6])([H:7])[H:8]>>[N:1]([C@@:2]([C:3]#[C:4][H:10])([C:5]#[N:6])[H:9])([H:7])[H:8],74.799822758077
[C:1]([C:2][O:4][H:13])([H:7])([H:8])[H:9].[C:3]([C:5]#[N:6])([H:10])([H:11])[H:12]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[N:6])([H:7])([H:8])[H:9],33.62528679377401
[C:1]1([H:8])([H:9])[O:2][C:3](=[O:4])/[C:5]1=[N:6]/[H:7]>>[C:1]([O:2][C:3](=[O:4])[C:5]#[N:6])([H:7])([H:8])[H:9],83.08330321635832
[C:1]1([H:8])([H:10])[C:2]([H:11])([H:12])[C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6][N:7]1[H:9]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],57.69187251233559
[C:1](=[N:2][C-:3]([N+:4]([H:9])([H:10])[H:11])[C:5]#[N:6])([H:7])[H:8]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9],9.756540208762807
[C:1]([C:2]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:11])[H:13])([H:8])([H:9])[H:10].[C:3]([O:4][H:14])[H:12]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10],24.954904029276598
